US09371336B2
To a suspension of t-butyl 4-(3-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)piperazine-1-carboxylate (112 mg, 0.24 mmol) in CH2Cl2 (3 mL) was added 4N HCl in dioxane (1.5 mL). The mixture was stirred for 16 hours, and filtered. The solid was washed with ether and dried under nitrogen. 3-(7-methylimidazo[1,2-a]pyridin-2-yl)-7-(piperazin-1-yl)-2H-pyrano[2,3-b]pyridin-2-one hydrochloride was obtained quantitatively and used in the next step without further purification. MS m/z 362.3 [M+H]+.

reactant | t-butyl 4-(3-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)piperazine-1-carboxylate | 0.24 mmol, 112 mg | CC1=CC=2N(C=C1)C=C(N2)C2=CC=1C(=NC(=CC1)N1CCN(CC1)C(=O)OC(C)(C)C)OC2=O | C25H27N5O4
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-(7-methylimidazo[1,2-a]pyridin-2-yl)-7-(piperazin-1-yl)-2H-pyrano[2,3-b]pyridin-2-one hydrochloride | Cl.CC1=CC=2N(C=C1)C=C(N2)C2=CC=1C(=NC(=CC1)N1CCNCC1)OC2=O | InChI=1S/C20H19N5O2.ClH/c1-13-4-7-25-12-16(22-18(25)10-13)15-11-14-2-3-17(23-19(14)27-20(15)26)24-8-5-21-6-9-24;/h2-4,7,10-12,21H,5-6,8-9H2,1H3;1H
